US05166170
2-(2-Methylamino-5-chlorophenyl)-1H-indole
A total of 123 ml 1M LiAlH4 in THF was added portionwise to a solution of 15.37 g N-[2-(1H-indol-2-yl)-4-chlorophenyl]formamide in 230 ml THF, during which the temperature was maintained below 20° C. The resulting mixture was stirred three hours at room temperature and then quenched with a saturated NH4Cl solution (140 ml). This was then filtered through celite, dried (MgSO4), and concentrated to yield a solid. Purification by HPLC using CH2Cl2 /hexane (2:3) as eluent yielded 7.43 g solid, m.p. 123°-126°.

reactant | LiAlH4 | 1M, 123 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-[2-(1H-indol-2-yl)-4-chlorophenyl]formamide | 15.37 g | N1C(=CC2=CC=CC=C12)C1=C(C=CC(=C1)Cl)NC=O | C15H11ClN2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 230 ml | C1CCOC1 | C4H8O
product | 2-(2-Methylamino-5-chlorophenyl)-1H-indole | 7.43 g | CNC1=C(C=C(C=C1)Cl)C=1NC2=CC=CC=C2C1 | C15H13ClN2
